US05387685
2-[6-(3,4-Dimethoxypheny)-6-[(4-methylphenyl)thio]-1-oxooctyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline
The procedure of Example 60 is repeated using of 2.7 g of 2-[6-(3,4-dimethoxyphenyl)-6-hydroxy-1-oxooctyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline and 1.06 g of p-thiocresol. This affords 1.92 g of the desired product as a white foam.

reactant | 2-[6-(3,4-dimethoxyphenyl)-6-hydroxy-1-oxooctyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 2.7 g | COC=1C=C(C=CC1OC)C(CCCCC(=O)N1CC2=CC(=C(C=C2CC1)OC)OC)(CC)O | C27H37NO6
reactant | p-thiocresol | 1.06 g | CC1=CC=C(C=C1)S | C7H8S
product | 2-[6-(3,4-Dimethoxypheny)-6-[(4-methylphenyl)thio]-1-oxooctyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 1.92 g | COC=1C=C(C=CC1OC)C(CCCCC(=O)N1CC2=CC(=C(C=C2CC1)OC)OC)(CC)SC1=CC=C(C=C1)C | C34H43NO5S
